US08053431B2
2-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic Acid
To a solution of 2-[5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic acid ethyl ester (60 mg, 0.147 mmol) in 96% ethanol (3 mL) at room temperature under an inert atmosphere of nitrogen was added 1N NaOH (aq) (0.36 mL, 0.36 mmol). The mixture was stirred for 16 hrs at 50° C. The reaction was quenched by the addition of water (3 mL) and acidified to pH 2 with 1N HCl followed by extraction with diethyl ether (2×5 mL). The combined organic phases were washed with water (2×5 mL), brine (5 mL), dried (MgSO4), filtered, and evaporated in vacuo affording 49 mg (88%) of the title compound as a solid. MS-ESI m/z 382; 1H NMR (400 MHz, CDCl3) δ 0.87-1.06 (m, 6H), 1.08-1.20 (m, 4H), 1.30-1.38 (m, 1H), 1.39-1.45 (m) and 1.48-1.64 (m, 3H), 1.70-1.90 (m, 2H), 1.91-2.01 (m, 1H), 2.18-2.30 (m) and 2.43-2.61 (m) and 2.85-3.02 (m, 2H), 3.15 (t) and 3.66 (t, 1H), 3.20-3.34 (m, 1H), 3.88-4.01 (m) and 4.54-4.65 (m, 1H), 7.39-7.50 (m, 1H), 7.69-7.85 (m, 2H).

reactant | 2-[5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic acid ethyl ester | 0.147 mmol, 60 mg | C(C)OC(=O)C1C(C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C | C24H31N3O3
reactant | NaOH | 0.36 mmol, 1N, 0.36 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic Acid | 49 mg, 88% | CC12CC(CC(N(C1)C(=O)C1=CC3=C(NC(=N3)C3C(C3)C(=O)O)C=C1)C2)(C)C | C22H27N3O3
